US06288120B1
Benzofurazan-4-sulfonyl chloride (109 mg, 0.50 mmol) was added to a solution of {3-[(4-butyl-benzylamino)-methyl]-phenyl}-acetic acid methyl ester (163 mg, 0.50 mmol) and N,N-diisopropylethylamine (65 mg, 0.50 mmol) in 1,2-dichloroethane. The reaction mixture was stirred at room temperature for 20 h. The reaction was diluted with EtOAc and the organic solution was washed with water followed by brine. The organic solution was dried over MgSO4, filtered, and concentrated to afford (3-{[(benzo[1,2,5]oxadiazole-4-sulfonyl)-(4-butyl-benzyl)-amino]-methyl}-phenyl)-acetic acid methyl ester. 1H NMR (400 MHz, CDCl3) δ 7.95 (d, 1H), 7.88 (d, 1H), 7.37-7.41 (m, 1H), 7.06-7.10 (m, 2H), 6.90-6.97 (m, 6H), 4.56 (s, 2H), 4.51 (s, 2H), 3.66 (s, 3H), 3.45 (s, 2H), 2.48 (t, 2H), 1.45-1.53 (m, 2H), 1.23-1.32 (m, 2H), 0.89 (t, 3H); MS 508 (M+18).

reactant | Benzofurazan-4-sulfonyl chloride | 0.50 mmol, 109 mg | N1=C2C(=NO1)C(=CC=C2)S(=O)(=O)Cl | C6H3ClN2O3S
reactant | {3-[(4-butyl-benzylamino)-methyl]-phenyl}-acetic acid methyl ester | 0.50 mmol, 163 mg | COC(CC1=CC(=CC=C1)CNCC1=CC=C(C=C1)CCCC)=O | C21H27NO2
reactant | N,N-diisopropylethylamine | 0.50 mmol, 65 mg | C(C)(C)N(C(C)C)CC | C8H19N
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (3-{[(benzo[1,2,5]oxadiazole-4-sulfonyl)-(4-butyl-benzyl)-amino]-methyl}-phenyl)-acetic acid methyl ester | COC(CC1=CC(=CC=C1)CN(CC1=CC=C(C=C1)CCCC)S(=O)(=O)C1=CC=CC=2C1=NON2)=O | C27H29N3O5S
